US07700628B2
A. Methyl 2-(1-tert-Butoxycarbonylpiperidin-3-ylmethoxy)-4-tert-butylbenzoate
In a manner substantially equivalent to Example 21-C, methyl 4-tert-butyl-2-hydroxybezoate (2.08 g, 10.0 mmol) and 1-Boc-3-hydroxymethylpiperidine (2.15 g, 10.0 mmol) were reacted to give the desired product (1.30 g, 32.1%).

reactant | methyl 4-tert-butyl-2-hydroxybezoate | 10.0 mmol, 2.08 g | C(C)(C)(C)C1=CC(=C(C(=O)OC)C=C1)O | C12H16O3
reactant | 1-Boc-3-hydroxymethylpiperidine | 10.0 mmol, 2.15 g | C(=O)(OC(C)(C)C)N1CC(CCC1)CO | C11H21NO3
product | Methyl 2-(1-tert-Butoxycarbonylpiperidin-3-ylmethoxy)-4-tert-butylbenzoate | 1.30 g, 32.1% | C(C)(C)(C)OC(=O)N1CC(CCC1)COC1=C(C(=O)OC)C=CC(=C1)C(C)(C)C | C23H35NO5
